US06410539B1
Oxalyl chloride (9.35 g; 0.074 mol) was added to a solution of 2-(4-fluorophenyl)-4-nitrobenzoic acid (17.5 g; 0.067 mol) in methylene chloride (150 ml). After addition of DMF (3 drops), the mixture was stirred at ambient temperature for 2 hours. After evaporation to dryness the residue was redissolved in methylene chloride (100 ml); methanol (50 ml) and DMAP (8.2 g; 0.067 mol) was added at 0° C. After stirring at ambient temperature for 2 hours, the mixture was evaporated to dryness. The residue was taken up in methylene chloride washed with a 2N HCl, saturated aqueous sodium bicarbonate and evaporated to give methyl 2-(4-fluorophenyl)-4-nitrobenzoate (17.6 g; 95%).

reactant | Oxalyl chloride | 0.074 mol, 9.35 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-fluorophenyl)-4-nitrobenzoic acid | 0.067 mol, 17.5 g | FC1=CC=C(C=C1)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C13H8FNO4
reactant | methanol | 50 ml | CO | CH4O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.067 mol, 8.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 2-(4-fluorophenyl)-4-nitrobenzoate | 17.6 g, 95% | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C14H10FNO4
